US04963568
Step 7: [1R,8S,9aR]-1-Amino-5,6-dimethoxy-2,3,7,8,9,9a-hexahydro-8-phenyl-phenalen
A suspension of 0.65 g (1.4 mmol) of [1R,8S,9aR]-1-carbobenzyloxyamino-5,6-dimethoxy-2,3,7,8,9,9a-hexahydro-8-phenyl-phenalene, from Step 6, in 50 mL of methanol and 0.1 g of 10% palladium on carbon was stirred under 1 atmosphere of hydrogen for 1 hour. The solid dissolved as the reaction proceeded. The palladium catalyst was removed by filtration and the filtrate was concentrated under reduced pressure to give 0.4 g (87% yield) of crude product which was carried on to the next step without further purification.

reactant | [1R,8S,9aR]-1-carbobenzyloxyamino-5,6-dimethoxy-2,3,7,8,9,9a-hexahydro-8-phenyl-phenalene | 1.4 mmol, 0.65 g | C(=O)(OCC1=CC=CC=C1)N[C@@H]1CCC2=CC(=C(C=3C[C@H](C[C@@H]1C23)C2=CC=CC=C2)OC)OC | C29H31NO4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 50 mL | CO | CH4O
catalyst | palladium on carbon | 0.1 g | [Pd] | Pd
product | [1R,8S,9aR]-1-Amino-5,6-dimethoxy-2,3,7,8,9,9a-hexahydro-8-phenyl-phenalen | 0.4 g, 87% yield | N[C@@H]1CCC2=CC(=C(C=3C[C@H](C[C@@H]1C23)C2=CC=CC=C2)OC)OC | C21H25NO2
